US05011947
Butyl 2-cyclopropyl-3,3-bis(4-fluorophenyl)propenoate
Phosphorous oxychloride (1 mL) was added slowly to a solution of butyl 2-cyclopropyl-3,3-bis(4-fluorophenyl)-3-hydroxypropionate (0.2 g, 0.53 mmol) in 4.5 mL of pyridine at -10° C. After stirring for 18 hours at 25° C., the mixture was heated at 100°-110° C. for 1.25 hours. The mixture was poured over ice and extracted with diethyl ether. The extracts were dried with magnesium sulfate to give 0.15 g of the title compound as an oil. MS(FAB): m/e =356 for M+ of C22H22F2O2.

reactant | Phosphorous oxychloride | 1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | butyl 2-cyclopropyl-3,3-bis(4-fluorophenyl)-3-hydroxypropionate | 0.53 mmol, 0.2 g | C1(CC1)C(C(=O)OCCCC)C(O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C22H24F2O3
solvent | pyridine | 4.5 mL | N1=CC=CC=C1 | C5H5N
product | Butyl 2-cyclopropyl-3,3-bis(4-fluorophenyl)propenoate | 0.15 g | C1(CC1)C(C(=O)OCCCC)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C22H22F2O2
